US06716850B2
6-Fluoro-2-hydroxy-3-methoxy-benzaldehyde (3.32 g, 19 mmol) was dissolved in acetonitrile (20 ml) and DBU (2.97 ml, 19 mmol) was added followed by vinyltriphenylphosphine bromide (7.2 g, 19 mmol). The reaction mixture was heated under reflux for 48 h, diluted with water and extracted with ether (3×50 ml). The organic phase was washed with water, 10% sodium hydroxide, water and brine and evaporated in vacuo. The residue was submitted to column chromatography (silica gel, EA:Hex, 1:20) yielding 1.2 g of 5-fluoro-8-methoxy-2H-chromene (34%).

reactant | 6-Fluoro-2-hydroxy-3-methoxy-benzaldehyde | 19 mmol, 3.32 g | FC1=CC=C(C(=C1C=O)O)OC | C8H7FO3
reactant | DBU | 19 mmol, 2.97 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | vinyltriphenylphosphine bromide | 19 mmol, 7.2 g | [Br-].C(=C)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5-fluoro-8-methoxy-2H-chromene | 1.2 g, 34% | FC1=C2C=CCOC2=C(C=C1)OC | C10H9FO2
